US07285558B2
(b) 1-naphthaldehyde (3-isobutyl-2,6-dioxo-1,2,3,6-tetrahydropyrimidin-4-yl)hydrazone
6-hydrazino-1-isobutylpyrimidine-2,4(1H,3H)-dione (1.8 g) was dissolved in warm methanol (90 ml) and treated with 1-naphthaldehyde (1.5 g). After 24 hours, the precipitated solid was filtered and dried to give the subtitle compound (3.03 g).

reactant | 6-hydrazino-1-isobutylpyrimidine-2,4(1H,3H)-dione | 1.8 g | N(N)C1=CC(NC(N1CC(C)C)=O)=O | C8H14N4O2
reactant | 1-naphthaldehyde | 1.5 g | C1(=CC=CC2=CC=CC=C12)C=O | C11H8O
solvent | methanol | 90 ml | CO | CH4O
product | 1-naphthaldehyde (3-isobutyl-2,6-dioxo-1,2,3,6-tetrahydropyrimidin-4-yl)hydrazone | 3.03 g | C(C(C)C)N1C(NC(C=C1NN=CC1=CC=CC2=CC=CC=C12)=O)=O | C19H20N4O2
